US04255444
6-[1-(4-Chlorophenoxy)-1-methylethyl]-4-hydroxy-3,4,5,6-tetrahydro-2H-pyran-2-one (Compound No. 4)
10 g (0.0354 mole) of ethyl 6-(p-chlorophenoxy)-6-methyl-5-hydroxy-3-oxoheptanoate [prepared from 2-(p-chlorophenoxy)-2-methylpropanal according to the procedure of step (a) of Example 1] were reduced with 0.8 g (0.021 mole) of sodium borohydride in 100 ml of ethanol, with ice-cooling and stirring. The residue obtained from the reaction mixture by the procedure described in Example 1 was dissolved, without purification, in 50 ml of acetone, and then 100 ml of a 15% w/w aqueous solution of potassium hydroxide was added. The mixture was then stirred at room temperature for 20 hours, after which it was acidified with hydrochloric acid and extracted three times, each time with 100 ml of ethyl acetate. The combined extracts were dried over anhydrous sodium sulphate and then the solvent was evaporated off under reduced pressure. The residue was adsorbed on a silica gel chromatography column and fractions eluted with a 1:5 by volume mixture of benzene and ethyl acetate were evaporated to dryness to give 2.6 g (yield 30%) of the desired Compound No. 4. This was recrystallized to give colourless crystals melting at 72°-76° C.

reactant | ethyl 6-(p-chlorophenoxy)-6-methyl-5-hydroxy-3-oxoheptanoate | 0.0354 mole, 10 g | ClC1=CC=C(OC(C(CC(CC(=O)OCC)=O)O)(C)C)C=C1 | C16H21ClO5
reactant | 2-(p-chlorophenoxy)-2-methylpropanal | ClC1=CC=C(OC(C=O)(C)C)C=C1 | C10H11ClO2
reactant | sodium borohydride | 0.021 mole, 0.8 g | [BH4-].[Na+]
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 6-[1-(4-Chlorophenoxy)-1-methylethyl]-4-hydroxy-3,4,5,6-tetrahydro-2H-pyran-2-one | 2.6 g, yield 30% | ClC1=CC=C(OC(C)(C)C2CC(CC(O2)=O)O)C=C1 | C14H17ClO4
